US07446222B2
2′-Bromo-2-{[(4-fluorophenyl)methyl]oxy}-5-(trifluoromethyl)biphenyl
Prepared as for 2′-bromo-5-chloro-2-[(phenylmethyl)oxy]biphenyl but using 1-{[(4-fluorophenyl)methyl]oxy}-2-iodo-4-(trifluoromethyl)benzene instead of 4-chloro-2-iodo-1-[(phenylmethyl)oxy]benzene.

reactant | 2′-bromo-5-chloro-2-[(phenylmethyl)oxy]biphenyl | BrC1=C(C=CC=C1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C19H14BrClO
reactant | 1-{[(4-fluorophenyl)methyl]oxy}-2-iodo-4-(trifluoromethyl)benzene | FC1=CC=C(C=C1)COC1=C(C=C(C=C1)C(F)(F)F)I | C14H9F4IO
product | 2′-Bromo-2-{[(4-fluorophenyl)methyl]oxy}-5-(trifluoromethyl)biphenyl | BrC1=C(C=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=C(C=C1)F | C20H13BrF4O
